US07968746B2
Following the amide coupling procedure described in protocol A, 500 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.0 mmol), 370 mg CDI (2.28 mmol) and 222 mg 4-hydroxypiperidine (2.20 mmol) produced 222 mg of a (6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)(4-hydroxypiperidin-1-yl)methanone as a white foam.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.0 mmol, 500 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.28 mmol, 370 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-hydroxypiperidine | 2.20 mmol, 222 mg | OC1CCNCC1 | C5H11NO
product | (6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)(4-hydroxypiperidin-1-yl)methanone | 222 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C)C(=O)N1CCC(CC1)O)C | C19H27NO4
